US04977146
trans-2-[3-(2-Hydroxypropylsulfonyl)-4-n-propoxy-5-(3-bromopropoxy)phenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran.
1,3-Dibromopropane (0.105 mL, 1.0 mol) was added to a solution of trans-2-[3-(2-hydroxypropylsulfonyl)-4-n-propoxy-5-hydroxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran (102 mg, 0.20 mmol) in DMF (1 mL) containing potassium carbonate (105 mg, 0.76 mmol). The reaction mixture was heated with stirring under nitrogen at 70° C. for 2 h, cooled, and partitioned between ethyl ether and water. The ethereal layer was separated and the aqueous layer was re-extracted twice with ether. The organic extracts were combined, dried, and evaporated to a residue (143 mg). Purification by preparative TLC (hexane-ethyl acetate; 1:1, v/v) gave the title compound (89 mg, 70%) as a colorless foam: Rf 0.5; NMR (CDCl3) δ 1.26 (d, CH2CHOHCH3), 3.66 (t, CH2Br).

reactant | 1,3-Dibromopropane | 1.0 mol, 0.105 mL | BrCCCBr | C3H6Br2
reactant | trans-2-[3-(2-hydroxypropylsulfonyl)-4-n-propoxy-5-hydroxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | 0.20 mmol, 102 mg | OC(CS(=O)(=O)C=1C=C(C=C(C1OCCC)O)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC)C | C25H34O9S
reactant | potassium carbonate | 0.76 mmol, 105 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | trans-2-[3-(2-Hydroxypropylsulfonyl)-4-n-propoxy-5-(3-bromopropoxy)phenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | 89 mg, 70% | OC(CS(=O)(=O)C=1C=C(C=C(C1OCCC)OCCCBr)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC)C | C28H39BrO9S
